US08648066B2
A mixture of 7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride (300 mg, 1.13 mmol), 4-chloro-6,7-dimethoxyquinoline (253 mg, 1.13 mmol), and potassium carbonate (470 mg, 3.40 mmol) in N-methylpyrrolidine (2 mL) was stirred at 160° C. for 17 h. Ethyl acetate (75 mL) was added and the mixture was washed with water (3×25 mL) and brine (25 mL), dried over sodium sulfate, and concentrated. Column chromatography on silica (dichloromethane:methanol 95:5) afforded 4-[6,7-bis(methyloxy)quinolin-4-yl]-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine (80 mg). MS (EI) for C20H19BrN2O3: 416 (MH+).

reactant | 7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 1.13 mmol, 300 mg | Cl.BrC=1C=CC2=C(CNCCO2)C1
reactant | 4-chloro-6,7-dimethoxyquinoline | 1.13 mmol, 253 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | potassium carbonate | 3.40 mmol, 470 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidine | 2 mL | CN1CCCC1 | C5H11N
product | 4-[6,7-bis(methyloxy)quinolin-4-yl]-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 80 mg | COC=1C=C2C(=CC=NC2=CC1OC)N1CCOC2=C(C1)C=C(C=C2)Br | C20H19BrN2O3
